US04946494
6-Fluoropyridine-2-sulfonamide
To 100 ml trifluoroacetic acid was added 11.6 g (50 mmol) of N-(1,1-dimethylethyl)-6-fluoro-2-pyridinesulfonamide and the mixture was refluxed for two days. The volatiles were then removed in vacuo and the residue triturated with ether to afford 7.23 g of tan solid, m.p. 110° C. to 111° C.

reactant | N-(1,1-dimethylethyl)-6-fluoro-2-pyridinesulfonamide | 50 mmol, 11.6 g | CC(C)(C)NS(=O)(=O)C1=NC(=CC=C1)F | C9H13FN2O2S
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Fluoropyridine-2-sulfonamide | 7.23 g | FC1=CC=CC(=N1)S(=O)(=O)N | C5H5FN2O2S
